US06262089B1
a) Mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-diisopropyl-hex-3-enedioic acid diethyl ester
To a stirred solution of 5.0 g (25.0 mmol) trans-2-butene-1,4dicarboxylic acid diethyl ester in 120 ml THf was added 6.35 g (150 mmol) anhydrous lithium chloride and the resulting suspension cooled to −78° C. 25.0 ml (50.0 mmol) of a 2 M solution of LDA in THF was added dropwise and stirring continued for 45 min. 4.7 ml (50 mmol) isopropyl bromide was then added and stirring continued for 15 min at −78° C., then 4 h at 0° C., and then 48 h at room temperature. The reaction was quenched by addition of saturated ammonium chloride solution and the mixture extracted three times with ether. The combined organic phases were washed successively with saturated ammonium chloride solution, water, and saturated brine, dried over sodium sulphate, and concentrated in vacuo. Successive flash chromatography (20% EtOAc in hexane for first column; 5% EtOAc in hexane for second column; 10% EtOAc in hexane for third column) afforded 259 mg (4%) of the title compound as a yellow oil. MS m/e (%): 302 ([M+NH4]+, 100).

reactant | trans-2-butene-1,4dicarboxylic acid diethyl ester | 25.0 mmol, 5.0 g | C(C)OC(=O)C\C=C\CC(=O)OCC | C10H16O4
reactant | lithium chloride | 150 mmol, 6.35 g | [Cl-].[Li+]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | isopropyl bromide | 50 mmol, 4.7 ml | C(C)(C)Br | C3H7Br
solvent | THF | C1CCOC1 | C4H8O
product | (2RS,5SR)-2,5-diisopropyl-hex-3-enedioic acid diethyl ester | 259 mg, 4% | C(C)OC(C(C=CC(C(=O)OCC)C(C)C)C(C)C)=O | C16H28O4
